US09193720B2
To a solution of 2-(4-fluorophenyl)ethanol (0.566 g) in THF (10 mL) was added NaH (0.269 g). The mixture was stirred at room temperature for 2 hours, before 2,5-dibromopyrimidine (0.8 g) was added. The mixture was stirred at room temperature for 16 h. The reaction was quenched with water and extracted with EtOAc (2×20 mL). The organic layers were combined, dried over MgSO4 and concentrated under vacuum. The residue was purified by silica gel column (Hex/EtOAc=100:5) to give 5-bromo-2-(4-fluorophenethoxy)pyrimidine (0.7 g). LCMS (M+H)=297.0.

reactant | 2-(4-fluorophenyl)ethanol | 0.566 g | FC1=CC=C(C=C1)CCO | C8H9FO
reactant | NaH | 0.269 g | [H-].[Na+]
reactant | 2,5-dibromopyrimidine | 0.8 g | BrC1=NC=C(C=N1)Br | C4H2Br2N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-(4-fluorophenethoxy)pyrimidine | 0.7 g | BrC=1C=NC(=NC1)OCCC1=CC=C(C=C1)F | C12H10BrFN2O
